US05102781
4-[-5-chloro-3-methylbenzothiazolinylidene]-3-methyl-1-phenylpyrazolin-5-one
3-Methyl-1-phenylpyrazolin-5-one (1.51 g,)) was mixed with 3.5 g (0.0087 mol) 5-chloro-2-methylthio-3-methylbenzothiazolium tosylate in 25 ml methanol. Triethylamine (0.89 g,) was added. The mixture was stirred for 1.5 hours, then filtered and washed with methanol. After drying the yield was 2.75 g (89%), mp 206° C., λmax=379 (ε=26,000).

reactant | 3-Methyl-1-phenylpyrazolin-5-one | 1.51 g | CC=1NN(C(C1)=O)C1=CC=CC=C1 | C10H10N2O
reactant | 5-chloro-2-methylthio-3-methylbenzothiazolium tosylate | 0.0087 mol, 3.5 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1.ClC=1C=CC2=C([N+](=C(S2)SC)C)C1
reactant | Triethylamine | 0.89 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 25 ml | CO | CH4O
product | 4-[-5-chloro-3-methylbenzothiazolinylidene]-3-methyl-1-phenylpyrazolin-5-one | ClC=1C=CC2=C(N(CS2=C2C(NN(C2=O)C2=CC=CC=C2)C)C)C1 | C18H18ClN3OS
